US04049714
Phosphorus oxychloride (7.67 g., 0.05 mole) is added in one portion to a stirred mixture of 3-(anilinomethyl)indole (11.1 g., 0.05 mole), 2-pyrrolidinone (4.26 g., 0.05 mole) and triethylamine (5.06 g., 0.05 mole) in 100 ml. of 1,2-dichloroethane at ice bath temperature. Stirring is continued at that temperature for 15 min. and then at room temperature for about 16 hr. After quenching in crushed ice and aqueous sodium hydroxide, the reaction mixture is filtered providing 2.5 g., of solid free base m.p. 115°-117° C. The filtrate is worked up according to the method of Example 34 by extracting the dichloroethane layer with hydrochloric acid and subsequently extracting the acid extract with ether and then making basic with sodium hydroxide. Ether extraction of the basic aqueous mixture with ether and concentrating the dried ethereal extract affords a second free base fraction, 4.1 g., melting at 118°-120° C. The free base fractions are combined and a 5.1 g. sample converted to the hydrochloride salt in ethanol by treatment with ethanolic hydrogen chloride. Concentration of the acidic ethanolic solution provides a residue which is taken up in water and filtered from a small amount of solid. The filtrate is cooled and made basic with 10% aqueous sodium hydroxide affording the free base which is collected, 3.1 g., m.p. 118°-120° C. The reprepared free base is then converted to the hydrochloride salt in the usual manner in ethanol by treatment with ethanolic hydrogen chloride. Addition of ether to the ethanolic solution yields analytically pure 3-[[N-(1-pyrrolin-2-yl)anilino)methyl] indole hydrochloride, 2.6 g., m.p. 163.5°-166.5° C. (corr.)

reactant | Phosphorus oxychloride | 0.05 mole, 7.67 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(anilinomethyl)indole | 0.05 mole, 11.1 g | N(C1=CC=CC=C1)CC1=CNC2=CC=CC=C12 | C15H14N2
reactant | 2-pyrrolidinone | 0.05 mole, 4.26 g | N1C(CCC1)=O | C4H7NO
reactant | triethylamine | 0.05 mole, 5.06 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3-[[N-(1-pyrrolin-2-yl)anilino)methyl] indole hydrochloride | Cl.N1=C(CCC1)N(C1=CC=CC=C1)CC1=CNC2=CC=CC=C12 | InChI=1S/C19H19N3.ClH/c1-2-7-16(8-3-1)22(19-11-6-12-20-19)14-15-13-21-18-10-5-4-9-17(15)18;/h1-5,7-10,13,21H,6,11-12,14H2;1H
